data/oMe_Silver.jsonl
{"reaction_id": "NR-075_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Fujimoto-Belleau Reaction","level": "medium","reactants_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C[Mg]Br","C1CC(=O)OC2=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC12"],"products_smiles": ["C12CCCCC1=CC(=O)CC2"],"conditions": "1. Ether solvent 2. H3O+ workup","mechnism_text_description": "The reaction sequence begins with the Fujimoto-Belleau reaction, a 1,4-conjugate nucleophilic addition of a Grignard reagent to an enol lactone. The resulting magnesium enolate is protonated during acidic workup and tautomerizes to a stable saturated lactone. This lactone then serves as a precursor for an intramolecular aldol condensation (a Robinson annulation). Under basic or thermal conditions, the lactone is believed to open to an intermediate keto-acid, which then cyclizes to form a β-hydroxy ketone. The final step is a dehydration of this aldol adduct to yield the thermodynamically stable α,β-unsaturated ketone.","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CC(CCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)([O-])OC2=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC12","rationale": "The nucleophilic carbon of the Grignard reagent attacks the β-position of the α,β-unsaturated lactone due to conjugation, forming a stabilized magnesium enolate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]C1=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC1CCCC(=O)(CCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "Elimination of the alkoxide occurs as the lactone ring opens, driven by relief of ring strain and formation of a stabilized conjugated carbonyl system."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C1C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC1CCC([O-])=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "Protonation of the enolate oxygen under acidic workup yields a neutral carbonyl, favored by the high electrophilicity of the proton and stability of the resulting ketone."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CC(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C2([O-])C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC12","rationale": "The enolate generated from the keto-acid intermediate attacks an intramolecular carbonyl, favored by proximity and formation of a stable five- or six-membered ring."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CC([O-])=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C2(O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC12","rationale": "Proton transfer converts the alkoxide to a β-hydroxy ketone, stabilizing the intermediate and preparing it for dehydration."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CC(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C2C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CCCC12","rationale": "Elimination of water forms the α,β-unsaturated ketone, driven by conjugation between the alkene and carbonyl, giving the thermodynamically more stable product."}],"description": "A Grignard reagent performs a 1,4-conjugate addition to the enol lactone, forming a magnesium enolate. Acidic workup and tautomerization yield a lactone, which undergoes base/thermal-induced ring opening and intramolecular aldol condensation. Final dehydration produces the thermodynamically favored α,β-unsaturated ketone."}
